US07179829B2
a) 2-Phenoxyphenyl isothiocyanate
1.96 g (0.011 mol) of thiocarbonyl diimidazole were added to a solution of 1.85 g (0.01 mol) of 2-phenoxyaniline in 50 ml of THF and the mixture was stirred at room temperature for 4 hours, giving, after removal of the solvent by distillation, the compound as a brown amorphous product.

reactant | thiocarbonyl diimidazole | 0.011 mol, 1.96 g | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
reactant | 2-phenoxyaniline | 0.01 mol, 1.85 g | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Phenoxyphenyl isothiocyanate | O(C1=CC=CC=C1)C1=C(C=CC=C1)N=C=S | C13H9NOS
